US04997836
A solution of 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride (1.6 g) in dichloromethane (15 ml) is added dropwise, at 0° C. taking 3 minutes, to a mixture of 4-tert-butoxycarbonylpiperazine-2-carboxylate (1.8 g) obtained in Reference Example 16, triethylamine (1.3 g) and dichloromethane (20 ml). The reaction mixture is poured into water and extracted with dichloromethane. The organic layer is washed with water and dried, then the solvent is distilled off under reduced pressure. The residue is purified by means of a silica gel column chromatography (hexane:ethyl acetate:acetone=5:4:1) to afford methyl 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-tert-butoxycarbonylpiperazine-2-carboxylate as a colorless oily product (2.8 g).

reactant | 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride | 1.6 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)Cl)C1)OC | C14H15ClO3
reactant | 4-tert-butoxycarbonylpiperazine-2-carboxylate | 1.8 g | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)[O-]
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 1-(2,3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-tert-butoxycarbonylpiperazine-2-carboxylate | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)C(=O)OC)C1)OC | C25H34N2O7
